US09079853B2
5-chloro-3-hydroxy-1-(2-(piperidin-1-yl)ethyl)-3-(pyridin-2-ylmethyl)indolin-2-one
This compound was prepared in an analogous manner to 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one using 5-chloro-1-(2-(piperidin-1-yl)ethyl)indoline-2,3-dione and 2-methylpyridine (purchased from Fisher Scientific). 1H-NMR δ 8.61 (d, 1H), 7.70 (m, 2H), 7.32 (dd, 1H), 7.24 (dd, 1H), 7.10 (d, 1H), 6.82 (m, 2H), 3.87-3.75 (m, 2H), 3.33 (d, 1H), 3.11 (d, 1H), 2.62-2.47 (m, 6H), 1.57 (m, 4H), 1.45 (m, 2H). Calculated mass for C21H24ClN3O2, 385.16, observed, 386.1 (M+1).

reactant | 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one | BrC=1C(=NC=CC1)CC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)O | C20H23BrN2O2
reactant | 5-chloro-1-(2-(piperidin-1-yl)ethyl)indoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCN1CCCCC1)=O)=O | C15H17ClN2O2
reactant | 2-methylpyridine | CC1=NC=CC=C1 | C6H7N
product | 5-chloro-3-hydroxy-1-(2-(piperidin-1-yl)ethyl)-3-(pyridin-2-ylmethyl)indolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CCN1CCCCC1)=O)(CC1=NC=CC=C1)O | C21H24ClN3O2
